US04351954
In 30 ml of ethanol, 2.14 g (0.0070 mol) of ethyl 2-azido-3-methyl-4,5-dichloro-4,5,5-trifluoropentanoate and 0.61 g of 5% palladium-containing activated carbon were placed and bubbled with hydrogen gas (at a flow rate of 15 ml/min) for 22 hours. Consequently there was obtained 1.04 g (0.0037 mol, yield of 53% of ethyl 2-amino-3-methyl-4,5-dichloro-4,5,5-trifluoropentanoate having b.p. 71° C./2 mm, nD20 1.4328, νNH2 3398 and 3327 cm-1 and νC=O 1740 cm-1.

reactant | ethyl 2-azido-3-methyl-4,5-dichloro-4,5,5-trifluoropentanoate | 0.0070 mol, 2.14 g | N(=[N+]=[N-])C(C(=O)OCC)C(C(C(F)(F)Cl)(F)Cl)C | C8H10Cl2F3N3O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium | 0.61 g | [Pd] | Pd
product | ethyl 2-amino-3-methyl-4,5-dichloro-4,5,5-trifluoropentanoate | 0.0037 mol, yield of 53% | NC(C(=O)OCC)C(C(C(F)(F)Cl)(F)Cl)C | C8H12Cl2F3NO2
